*****************************************************************
* NXP PSMN7R0-100ES
*
* Polarity N-Channel
* Ratings 100V/6.800000E-003OHMS/100A
*
* Date Created Mon Nov 07 00:52:33 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R0-100ES DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.39043524348335e-09
RLS2 SOURCE 8 8.52109316271937
RLS1 8 7 0.00106315324002631

RDS 7 4 1250000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00366523866449504 TC=0.00780729590087863,4.75743208229071E-05
RBD 9 4 0.0001 TC=0.00780729590087863,4.75743208229071E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 6.414e-09
RG 1 2 0.732442050062452

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	3790
+ -0.5	3556
+ -0.2	3177
+ -0.1	2966
+ 0	1460.5
+ 0.1	2453
+ 0.2	2230
+ 0.5	1856
+ 1	1544
+ 2	1156
+ 5	780
+ 10	573
+ 20	421
+ 25	381
+ 30	351
+ 50	280
+ 70	209
+ 90	138
+ 100	102.5


.MODEL MINT NMOS(Vto=3.69 Kp=4.8e+002 Nfs=630000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=6.5e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=2.427e-09 Tt=6.4e-08)

.ENDS

